US05215738
A mixture of 4.00 g (29.0 mmol) of 5-aminonicotinic acid in 400 ml of 0.1N H2SO4 at room temperature was diazotized with 2.2 g (31.8 mmol) of NaNO2 by the method of R. Graf (supra) to afford 5-hydroxynicotinic acid. The intermediate free acid was esterified in anhydrous methanolic HCl by the method of Urban (supra) to afford 2.34 g (53% overall yield) of 5-hydroxy nicotinic acid, methyl ester, mp 186°-187° C. (lit 182°-193° C.; Urban, supra). The IR data gave the characteristic 5-hydroxy band at 2550.

reactant | 5-aminonicotinic acid | 29.0 mmol, 4.00 g | NC=1C=NC=C(C(=O)O)C1 | C6H6N2O2
reactant | NaNO2 | 31.8 mmol, 2.2 g | N(=O)[O-].[Na+]
solvent | H2SO4 | 0.1N, 400 ml | OS(=O)(=O)O | H2O4S
product | 5-hydroxynicotinic acid | OC=1C=NC=C(C(=O)O)C1 | C6H5NO3
